US04892875
A mixture of 2,1,3-benzoxadiazole-4-carbaldehyde, 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate and methyl 3-aminocrotonate was worked up in isopropyl alcohol in the same manner as Example 1 and the product obtained was further treated with methanolic hydrogen chloride solution to give 2-(4-benzhydryl-1-piperazinyl)ethyl methyl 4-(2,1,3-benzoxadiazol-4-yl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate dihydrochloride as light yellow crystals, m.p. 192°-198° C. Yield 45.0%.

reactant | 2,1,3-benzoxadiazole-4-carbaldehyde | N=1ON=C2C1C=CC=C2C=O | C7H4N2O2
reactant | 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate | C(CC(=O)C)(=O)OCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O3
reactant | methyl 3-aminocrotonate | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | hydrogen chloride | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(4-benzhydryl-1-piperazinyl)ethyl methyl 4-(2,1,3-benzoxadiazol-4-yl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate dihydrochloride | Yield 45.0% | Cl.Cl.N=1ON=C2C1C=CC=C2C2C(=C(NC(=C2C(=O)OC)C)C)C(=O)OCCN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C35H37N5O5.2ClH/c1-23-29(34(41)43-3)31(27-15-10-16-28-32(27)38-45-37-28)30(24(2)36-23)35(42)44-22-21-39-17-19-40(20-18-39)33(25-11-6-4-7-12-25)26-13-8-5-9-14-26;;/h4-16,31,33,36H,17-22H2,1-3H3;2*1H
